US09315470B2
Magnesium methoxide (6% in MeOH, 530 mL) was added to a suspension of dehydroacetic acid (31 g) in methanol (600 mL) at room temperature. The reaction mixture was refluxed and stirred for 5 h. The solvent was removed and the residue dissolved in HCl 1M (1.5 L). The aqueous phase was extracted with EtOAc (2×750 mL) and then the solvent was evaporated under reduced pressure to give a yellow oil, which was filtered on a silica cartridge using dichloromethane as eluent. After the solvent removal, methyl 3,5-dioxohexanoate was obtained as a light yellow oil (19.9 g).

reactant | Magnesium methoxide | 530 mL | C[O-].[Mg+2].C[O-]
reactant | dehydroacetic acid | 31 g | CC1=CC(=O)C(C(=O)O1)C(=O)C | C8H8O4
solvent | methanol | 600 mL | CO | CH4O
product | methyl 3,5-dioxohexanoate | O=C(CC(=O)OC)CC(C)=O | C7H10O4
